US04137406
Methyl α-methylthio(2-thienyl)acetate (1.956 g) was dissolved in 20 ml of 1,2-dimethoxyethane, and 10 ml of a 2N aqueous solution of potassium hydroxide was added. The mixture was stirred at room temperature for 2 hours and 50 minutes. Water (20 ml) and 10 ml of 3N sulfuric acid were added. The mixture was extracted four times with 50 ml of diethyl ether. The ethereal layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 1.668 g of α-methyl(2-thienyl)acetic acid as pale yellow crystals. Recrystallization from diethyl ether/n-hexane afforded crystals having a melting point of 75 to 75.5° C.

reactant | Methyl α-methylthio(2-thienyl)acetate | 1.956 g | CSC(C(=O)OC)C=1SC=CC1 | C8H10O2S2
reactant | potassium hydroxide | [OH-].[K+]
reactant | Water | 20 ml | O | H2O
reactant | sulfuric acid | 3N, 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | α-methyl(2-thienyl)acetic acid | 1.668 g | CC(C(=O)O)C=1SC=CC1 | C7H8O2S
